US07700595B2
3-Benzyl-8-chloro-4-(3-{[3-(trifluoromethyl)benzyl]oxy}phenyl)cinnoline
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol and 3-trifluoromethylbenzyl bromide according the procedure of Example 14. MS (ES) m/z 504.8.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)O | C20H13ClN2O
reactant | 3-trifluoromethylbenzyl bromide | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
product | 3-Benzyl-8-chloro-4-(3-{[3-(trifluoromethyl)benzyl]oxy}phenyl)cinnoline | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=CC(=CC=C1)C(F)(F)F)Cl | C29H20ClF3N2O
